### PR TITLE
[Merged by Bors] - chore(MeasureTheory): remove some unnecessary `@[measurability]` attributes

### PR DESCRIPTION
**Pull request by gasparattila**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 1]
```diff
@@ -232,11 +231,11 @@ section TypeclassMeasurableSpace
 
 variable [MeasurableSpace α] [MeasurableSpace β]
 
-@[nontriviality, measurability]
+@[nontriviality]
 theorem Subsingleton.measurable [Subsingleton α] : Measurable f := fun _ _ =>
```
Comment (gasparattila) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean]: This is a special case of `Measurable.of_discrete`.

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 2]
```diff
@@ -212,7 +212,6 @@ lemma Measurable.sup_of_right {mα mα' : MeasurableSpace α} {_ : MeasurableSpa
 theorem measurable_id'' {m mα : MeasurableSpace α} (hm : m ≤ mα) : @Measurable α α mα m id :=
   measurable_id.mono le_rfl hm
 
-@[measurability]
 theorem measurable_from_top [MeasurableSpace β] {f : α → β} : Measurable[⊤] f := fun _ _ => trivial
```
Comment (gasparattila) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:215]: Special case of `Measurable.of_discrete`.

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 3]
```diff
@@ -232,7 +231,7 @@ section TypeclassMeasurableSpace
 
 variable [MeasurableSpace α] [MeasurableSpace β]
 
-@[nontriviality, measurability]
+@[nontriviality]
 theorem Subsingleton.measurable [Subsingleton α] : Measurable f := fun _ _ =>
```
Comment (gasparattila) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:235]: Special case of `Measurable.of_discrete`.

File: Mathlib/MeasureTheory/MeasurableSpace/Constructions.lean [hunk 4]
```diff
@@ -54,7 +54,6 @@ theorem ENat.measurable_iff {α : Type*} [MeasurableSpace α] {f : α → ℕ∞
     exact .compl <| .iUnion h
   | coe n => exact h n
 
-@[measurability]
 theorem measurable_unit [MeasurableSpace α] (f : Unit → α) : Measurable f :=
```
Comment (gasparattila) [inline Mathlib/MeasureTheory/MeasurableSpace/Constructions.lean:57]: Special case of `Measurable.of_discrete`.

File: Mathlib/MeasureTheory/MeasurableSpace/Constructions.lean [hunk 5]
```diff
@@ -78,7 +77,6 @@ section Nat
 
 variable {mα : MeasurableSpace α}
 
-@[measurability]
 theorem measurable_from_nat {f : ℕ → α} : Measurable f :=
```
Comment (gasparattila) [inline Mathlib/MeasureTheory/MeasurableSpace/Constructions.lean:80]: Special case of `Measurable.of_discrete`.

File: Mathlib/MeasureTheory/Measure/AEMeasurable.lean [hunk 6]
```diff
@@ -25,7 +25,7 @@ variable {ι α β γ δ R : Type*} {m0 : MeasurableSpace α} [MeasurableSpace 
 
 section
 
-@[nontriviality, measurability]
+@[nontriviality]
 theorem Subsingleton.aemeasurable [Subsingleton α] : AEMeasurable f μ :=
```
Comment (gasparattila) [inline Mathlib/MeasureTheory/Measure/AEMeasurable.lean:29]: Special case of `AEMeasurable.of_discrete`.

File: Mathlib/MeasureTheory/Measure/Prod.lean [hunk 7]
```diff
@@ -120,7 +120,6 @@ theorem Measurable.map_prodMk_right {μ : Measure α} [SFinite μ] :
 
 /-- The Lebesgue integral is measurable. This shows that the integrand of (the right-hand-side of)
   Tonelli's theorem is measurable. -/
-@[fun_prop, measurability]
 theorem Measurable.lintegral_prod_right' [SFinite ν] :
     ∀ {f : α × β → ℝ≥0∞}, Measurable f → Measurable fun x => ∫⁻ y, f (x, y) ∂ν := by
```
Comment (gasparattila) [inline Mathlib/MeasureTheory/Measure/Prod.lean:124]: These lemmas follow from `Measurable.lintegral_prod_right`.

File: Mathlib/Probability/Density.lean [hunk 8]
```diff
@@ -88,7 +88,6 @@ theorem hasPDF_iff_of_aemeasurable (hX : AEMeasurable X ℙ) :
   simp only [hX, true_and]
 
 variable (X ℙ μ) in
-@[measurability]
 theorem HasPDF.aemeasurable [HasPDF X ℙ μ] : AEMeasurable X ℙ := HasPDF.aemeasurable' μ
```
Comment (gasparattila) [inline Mathlib/Probability/Density.lean:91]: This cannot be used because `μ` doesn't appear in the goal.

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean (hunk 3 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:235]: Technically `measurability` fails here as it needs [Subsingleton.measurableSingletonClass](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/MeasurableSpace/Instances.html#Subsingleton.measurableSingletonClass) which is not imported. I guess this is not an issue.

**Comment by EtienneC30** [comment]
maintainer merge

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
